US05773437
(1) 2-(3-Chloropropyl)-2H-1,2-benzothiazin-4(3H)-one 1,1-dioxide Ethylene Ketal
In 1,2-dimethoxyethane (450 mL) was suspended 60% sodium hydride (2.0 g, 502 mmol.), and then 2H-1,2-benzothiazin-4(3H)-one 1,1-dioxide ethylene ketal (12.06 g, 50 mmol.) was added to the suspension. The suspension was heated to 100° C. for 1 hour under stirring. The reaction liquid was cooled to 50° C., and to this was added a solution of 1-bromo-3-chloropropane (23.62 g, 150 mmol.) in 1,2-dimethoxyethane (50 mL). The mixture was heated to 100° C. for 21 hours under refluxing. The reaction liquid was filtered to remove insolubles and the solvent was evaporated to give a residue. The residue was treated with water and ether, and the organic layer was taken out. The organic solution was washed with water and a saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was evaporated to leave the desired compound (8.89 g, yield 56%) as a yellow oil.

reactant | sodium hydride | 502 mmol, 2.0 g | [H-].[Na+]
reactant | 2H-1,2-benzothiazin-4(3H)-one 1,1-dioxide ethylene ketal | 50 mmol, 12.06 g | C1COC2(CNS(C3=C2C=CC=C3)(=O)=O)O1 | C10H11NO4S
reactant | 1-bromo-3-chloropropane | 150 mmol, 23.62 g | BrCCCCl | C3H6BrCl
reactant | water | O | H2O
solvent | 1,2-dimethoxyethane | 450 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 50 mL | COCCOC | C4H10O2
solvent | ether | CCOCC | C4H10O
product | 2-(3-Chloropropyl)-2H-1,2-benzothiazin-4(3H)-one 1,1-dioxide Ethylene Ketal | 8.89 g, yield 56% | C1COC2(CN(S(C3=C2C=CC=C3)(=O)=O)CCCCl)O1 | C13H16ClNO4S
